US05663038
24.0 g of 2-methoxypropene are slowly added dropwise at 10° C. to a solution of 20.0 g of partially hydrogenated poly-4-hydroxystyrene (Maruka Lyncur PHM-C, content of cycloaliphatic structural units about 10 mol %), a catalytic quantity of 4-toluenesulfonic acid and a catalytic quantity of pyridine in 140 ml of 1,4-dioxane. The reaction mixture is stirred at room temperature for 24 h; the reaction solution is subsequently eluted slowly through a column into which 50.0 g of a strongly basic macroporous anion exchanger based on sytrene/divinylbenzene copolymer (Amberlyst® A-26) have been washed. The polymer is precipitated by introducing the reaction solution into a mixture of water and isopropanol, filtered off with suction, washed with a mixture of water and isopropanol and dried to constant weight. 24.0 g of poly[4-(1-methoxy-1-methylethoxy)styrene/4-(1-methoxy-1-methylethoxy)vinylcyclohexane/4-hydroxystyrene/4-vinylcyclohexanol] are obtained, in which according to thermogravimetric analysis (TGA) 65 mol % of the original OH groups have been protected.

reactant | 2-methoxypropene | 24.0 g | COC(=C)C | C4H8O
reactant | 4-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 1,4-dioxane | 140 ml | O1CCOCC1 | C4H8O2
product | 4-(1-methoxy-1-methylethoxy)styrene 4-(1-methoxy-1-methylethoxy)vinylcyclohexane 4-hydroxystyrene 4-vinylcyclohexanol | COC(C)(OC1=CC=C(C=C)C=C1)C.COC(C)(OC=CC1CCCCC1)C.OC1=CC=C(C=C)C=C1.C(=C)C1CCC(CC1)O | InChI=1S/C12H22O2.C12H16O2.C8H14O.C8H8O/c1-12(2,13-3)14-10-9-11-7-5-4-6-8-11;1-5-10-6-8-11(9-7-10)14-12(2,3)13-4;2*1-2-7-3-5-8(9)6-4-7/h9-11H,4-8H2,1-3H3;5-9H,1H2,2-4H3;2,7-9H,1,3-6H2;2-6,9H,1H2
